US07683176B2
N-[2-(5-amino-4-isopropyl-4H-1,2,4-triazol-3-yl)-5-chloropyridin-3-yl]-4-chloro-3-(trifluoromethyl)benzenesulfonamide
A 35 mL scintillation vial was charged with 4-chloro-N-(5-chloro-2-(hydrazinecarbonyl)pyridine-3-yl)-3-(trifluoromethyl)benzenesulfonamide (500 mg, 1.1 mmol), cyanogenbromide (200 mg, 2.0 mmol) anhydrous MeCN (5 mL). The resultant mixture was heated to 65° C. and stirred for 2 h. After cooling to room temperature, isopropylamine (500 mg, 8.2 mmol) was added followed by AcOH (0.5 mL) and the mixture was heated to 135° C. and stirred for 2 h. After cooling to room temperature, reaction mixture was concentrated under reduced pressure. The residue was further purified through automated normal-phase chromatography (10% to 100% gradient of EtOAc-Hexane) and followed by preparative HPLC (10% to 90% gradient of MeCN-water) and dried (Lyophilizer) to afford the title compound. 1H NMR (400 MHz, CDCl3) 8.28 (d, 1H), 8.18 (d, 1H), 8.10 (d, 1H), 7.90 (dd, 1H), 7.58 (d. 1H), 4.32 (br, 1H), 3.88 (m, 1H), 1.34 (d (d, 6H). MS (ES) [M+H]+ expected 495.0, found 495.0.

reactant | 4-chloro-N-(5-chloro-2-(hydrazinecarbonyl)pyridine-3-yl)-3-(trifluoromethyl)benzenesulfonamide | 1.1 mmol, 500 mg | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C(=O)NN)C(F)(F)F | C13H9Cl2F3N4O3S
reactant | cyanogenbromide | 2.0 mmol, 5 mL, 200 mg | N#CBr | CBrN
reactant | isopropylamine | 8.2 mmol, 500 mg | C(C)(C)N | C3H9N
solvent | AcOH | 0.5 mL | CC(=O)O | C2H4O2
product | N-[2-(5-amino-4-isopropyl-4H-1,2,4-triazol-3-yl)-5-chloropyridin-3-yl]-4-chloro-3-(trifluoromethyl)benzenesulfonamide | NC=1N(C(=NN1)C1=NC=C(C=C1NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)Cl)C(C)C | C17H15Cl2F3N6O2S
